US04920133
3-(4-(2-Quinolinylmethyloxy)benzyl)benzyl alcohol methane sulfonate (0.0018 mol) with sodium cyanide (0.0036 mol) in dimethylsulfoxide (10 ml) is stirred at ambient temperature. After the consumption of sulfate, the reaction is diluted with water and extracted with ethyl acetate. The organic extracts are dried and evaporated to give 3-(4-(2-quinolinylmethyloxy)benzyl)phenylacetonitrile.

reactant | 3-(4-(2-Quinolinylmethyloxy)benzyl)benzyl alcohol methane sulfonate | 0.0018 mol | CS(=O)(=O)OCC1=CC(=CC=C1)CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H23NO4S
reactant | sodium cyanide | 0.0036 mol | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-(4-(2-quinolinylmethyloxy)benzyl)phenylacetonitrile | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C=CC2)CC#N)C=C1 | C25H20N2O
